US07465815B2
To a suspension of sodium hydride (a 60% liquid paraffin dispersion, 1.8 g, 40 mmol) in DMF (60 mL) was added triethyl 3-methyl-4-phosphonocrotonate (11 g, 41.6 mmol) at 0° C., and the mixture was stirred at room temperature for 1 hour. To the reaction solution was added cyclohexanone (3.93 g, 40 mmol), and the mixture was stirred for 3 hours. Water was added to the reaction solution and the product was extracted with diisopropyl ether. The combined extract was washed with water, dried over magnesium sulfate, and then concentrated under reduced pressure to obtain oily crude resultant product of ethyl 4-cyclohexylidene-3-methyl-2-butenoate. To a mixed solution of this compound in THF (160 mL) and methanol (40 mL) was added a 12 N aqueous sodium hydroxide solution (4.0 mL) at room temperature, and the mixture was stirred for 16 hours, and then was concentrated under reduced pressure. To the residue was added water and hydrochloric acid, and the mixture was acidified, which was extracted with ethyl acetate. The organic layer was washed with water, and then was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain the crude resultant product of 4-cyclohexylidene-3-methyl-2-butanoic acid. To a mixture of this compound (6.1 g, 33.8 mmol) in acetic acid (150 mL) was added sodium acetate (12 g, 33.8 mmol) at room temperature, and the mixture was heated under reflux under argon atmosphere for 24 hours. The solvent was concentrated under reduced pressure, water was added to the residue, which was extracted with ethyl acetate, and the organic layer was washed with a saturated sodium hydrogen carbonate solution and water, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10) to obtain 5.1 g (yield 63%) of the title compound. Oily matter.

reactant | sodium hydride | [H-].[Na+]
reactant | triethyl 3-methyl-4-phosphonocrotonate | 41.6 mmol, 11 g | CCOC(=O)/C=C(\C)/CP(=O)(OCC)OCC | C11H21O5P
reactant | cyclohexanone | 40 mmol, 3.93 g | C1(CCCCC1)=O | C6H10O
reactant | Water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | ethyl 4-cyclohexylidene-3-methyl-2-butenoate | C1(CCCCC1)=CC(=CC(=O)OCC)C | C13H20O2
